US04302455
Step B: Preparation of 6-chloro-2-(4-aminopiperidino)pyrazine hydrochloride
To a solution of 17.1 g (81 mmol) 6-chloro-2-(4-oxopiperidino)pyrazine in 250 ml methanol which has been saturated with gaseous NH3 is added 62.4 g (0.81 mol) NH4OAc and 5.0 g (80 mmol) NaCNBH3. After stirring at 20°-25° C. for 60 hours, the MeOH is removed in vacuo. Water is added to the residue, and the pH is adjusted to 14. The product is extracted into ethyl acetate which is dried and concentrated. Chromatography of the residue over silica gel, eluting with 5% MeOH/CHCl3 saturated with NH3, gives the product base which is converted to the hydrochloride salt with ethanolic HCl. Recrystallization from water/acetone affords the desired product, m.p. 291° C. (dec.).

reactant | 6-chloro-2-(4-oxopiperidino)pyrazine | 81 mmol, 17.1 g | ClC1=CN=CC(=N1)N1CCC(CC1)=O | C9H10ClN3O
reactant | NH3 | N | H3N
reactant | NaCNBH3 | 80 mmol, 5.0 g | [BH3-]C#N.[Na+]
reactant | HCl | Cl | ClH
solvent | methanol | 250 ml | CO | CH4O
product | 6-chloro-2-(4-aminopiperidino)pyrazine hydrochloride | Cl.ClC1=CN=CC(=N1)N1CCC(CC1)N | InChI=1S/C9H13ClN4.ClH/c10-8-5-12-6-9(13-8)14-3-1-7(11)2-4-14;/h5-7H,1-4,11H2;1H
